US08017602B2
Step iii) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanamide
To a solution of 3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 37 Step ii)] (0.3 g) and DIPEA (0.545 mL) in DMF (4 mL) was added HATU (0.475 g) and the mixture was stirred at ambient temperature for 10 min. To this solution was added N-(2,2-dimethoxyethyl)cyclohexanamine (0.214 g) and the reaction mixture was stirred at ambient temperature for 2.5 h. The reaction mixture was poured onto water and extracted with ethyl acetate (2×100 mL). The organics were washed well with water, then brine and dried over anhydrous sodium sulfate, filtered and evaporated. The crude product was purified by flash silica chromatography, elution gradient 20-70% ethyl acetate in isohexane to afford the titled compound (0.185 g) as an oil. MS [M+H-MeOH]+=426 (MultiMode+) 1H NMR (400 MHz, CDCl3) δ 7.54 (s, 1H), 7.33-7.27 (m, 1H), 7.22-7.17 (m, 2H), 7.12 (d, 1H), 3.84 (s, 3H), 3.79 (dt, 2H), 3.70 (dt, 2H), 3.40 (s, 6H), 3.37 (d, 1H), 3.30 (d, 1H), 2.94-2.88 (m, 2H), 2.74-2.65 (m, 2H), 2.38 (s, 3H), 1.86-1.73 (m, 2H), 1.73-1.59 (m, 3H), 1.53-1.19 (m, 5H), 1.14-1.02 (m, 1H).

reactant | 3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | CN1N=CC(=C1C)C=1C=C(CCOCCC(=O)O)C=CC1 | C16H20N2O3
reactant | DIPEA | 0.545 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.475 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-(2,2-dimethoxyethyl)cyclohexanamine | 0.214 g | COC(CNC1CCCCC1)OC | C10H21NO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1,5-dimethyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 0.185 g | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1C)C)=O)CC(OC)OC | C26H39N3O4
